US04215215
16 g of 3-chloro-2,4,6-trimethyl-benzyl-triphenylphosphonium chloride and 10 g of 7-formyl-3-methyl-octa-2,4,6-trien-1-oic acid butyl ester are heated to boiling with stirring after the addition of 40 g of 1,2-butylene oxide. The 1,2-butylene oxide is slowly distilled off. The reaction mixture is stirred for 30 minutes at 80°-82° C., then cooled and thoroughly extracted with hexane. The hexane extract is shaken out 5 times with 50 ml of methanol/water 70:30 parts by volume each time, then dried over sodium sulphate and evaporated under reduced pressure to produce 9-(3-chloro-2,4,6-trimethyl-phenyl), 3,7-dimethyl-nona-2,4,6,8-tetraen-1-oic acid butyl ester as a residue.

reactant | 3-chloro-2,4,6-trimethyl-benzyl-triphenylphosphonium chloride | 16 g | [Cl-].ClC=1C(=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=CC1C)C)C
reactant | 7-formyl-3-methyl-octa-2,4,6-trien-1-oic acid butyl ester | 10 g | C(CCC)OC(C=C(C=CC=C(C)C=O)C)=O | C14H20O3
reactant | 1,2-butylene oxide | 40 g | C1C(CC)O1 | C4H8O
product | 3,7-dimethyl-nona-2,4,6,8-tetraen-1-oic acid butyl ester | C(CCC)OC(C=C(C=CC=C(C=C)C)C)=O | C15H22O2
